US07247748B2
b) N-(2,2-Diphenylethyl)-N-(3-hydroxy-propyl)-N-(2-chloro-3-trifluoromethyl-benzyl)amine
To a stirring solution of 3-bromo-propanol (77 ul, 0.84 mmol) in acetonitrile (10 ml) was added Nal (0.25 g, 1.7 mmol) and K2CO3 (0.23 g, 1.7 mmol). The mixture was stirred at 85° C. for 1 h, and then N-(2,2-diphenylethyl)-N-(2-chloro-3-trifluoromethyl-benzyl)amine (0.43 g, 1.12 mmol) was added. The reaction mixture was heated at 85° C. overnight. The reaction mixture was concentrated, the residue was dissolved in EtOAc, and washed with H2O. The EtOAc extracts were dried over Na2SO4, filtered, and concentrated. The crude mixture was purified by preparative HPLC (TMC CombiPrep PDS, 75×30 mm, 25 mL/min, acetonitrile:H2O, UV detection at 254 nm) to give 225 mg (60%) of the title compound as a white solid. MS (ESI) 448.0 (M+H+).

reactant | 3-bromo-propanol | 0.84 mmol, 77 ul | BrCCCO | C3H7BrO
reactant | Nal | 1.7 mmol, 0.25 g | N[C@@H](CC1=CC=C2C=CC=CC2=C1)C(=O)O | C13H13NO2
reactant | K2CO3 | 1.7 mmol, 0.23 g | C(=O)([O-])[O-].[K+].[K+]
reactant | N-(2,2-diphenylethyl)-N-(2-chloro-3-trifluoromethyl-benzyl)amine | 1.12 mmol, 0.43 g | C1(=CC=CC=C1)C(CNCC1=C(C(=CC=C1)C(F)(F)F)Cl)C1=CC=CC=C1 | C22H19ClF3N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | N-(2,2-Diphenylethyl)-N-(3-hydroxy-propyl)-N-(2-chloro-3-trifluoromethyl-benzyl)amine | 225 mg, 60% | C1(=CC=CC=C1)C(CN(CC1=C(C(=CC=C1)C(F)(F)F)Cl)CCCO)C1=CC=CC=C1 | C25H25ClF3NO
